US05849958
Preparation of 1-Bromo-4-(p-chlorophenyl)-3-fluoro-4-methyl-2-pentene (Z)-
A solution of triphenyl phosphine (12.58 g, 55.6 mmol) in carbon tetrachloride at -5° C. to 5° C. is treated dropwise with a solution of bromine (8.89 g, 55.6 mmol) in carbon tetrachloride over 50 minutes under nitrogen, stirred at room temperature for one hour, treated with a solution of 4-(p-chlorophenyl)-3-fluoro-4-methyl-2-penten-1-ol, (Z)- (10.6 g, 46.3 mmol) in carbon tetrachloride over 15 minutes, refluxed for 2.5 hours, cooled to room temperature, and poured into petroleum ether. The resultant mixture is filtered through diatomaceous earth and concentrated in vacuo to obtain a residue. Flash chromatography of the residue using silica gel and a 1:9 ethyl acetate/hexane solution gives the title product as an oil (12.5 g, 92.6% yield).

reactant | triphenyl phosphine | 55.6 mmol, 12.58 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromine | 55.6 mmol, 8.89 g | BrBr | Br2
reactant | 4-(p-chlorophenyl)-3-fluoro-4-methyl-2-penten-1-ol | ClC1=CC=C(C=C1)C(C(=CCO)F)(C)C | C12H14ClFO
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-Bromo-4-(p-chlorophenyl)-3-fluoro-4-methyl-2-pentene | 12.5 g, 92.6% yield | BrCC=C(C(C)(C)C1=CC=C(C=C1)Cl)F | C12H13BrClF
